US04420424
(A) Z-Val-Tyr(But)-OMe
19.5 ml (approx. 150 mmoles) of N-ethylmorpholine and 33 g (160 mmoles) of DCC are added at 0° C. to a solution in 250 ml of dimethylformamide of 43.15 g (150 mmoles) of H-Tyr(But)-OMe.HCl, 37.65 g (150 mmoles) of Z-Val-OH and 20.25 g (150 mmoles) of 1-hydroxybenzotriazole. The mixture is stirred for 1 hour at 0° C. and is allowed to stand overnight at room temperature. The precipitate which has deposited is filtered off. It is rinsed with a little dimethylformamide. The filtrate is introduced into a mixture of 150 ml of saturated NaHCO3 solution and 3,000 ml of water, while stirring. The mixture is cooled to 4° C. and the precipitate is filtered off. It is washed thoroughly with water. While still wet, the product is dissolved in 400 ml of ethyl acetate. Insoluble matter is filtered off and water is separated off in a separating funnel. The ethyl acetate phase is dried over Na2SO4 and concentrated. The residue is triturated with petroleum ether and the product is filtered off. Yield 67 g (92%). Melting point 111°-112°, [α]D21 =-15.9° (c=1, methanol).

reactant | N-ethylmorpholine | approx. 150 mmoles, 19.5 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 160 mmoles, 33 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Tyr(But)-OMe.HCl | 150 mmoles, 43.15 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC.Cl
reactant | Z-Val-OH | 150 mmoles, 37.65 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | 1-hydroxybenzotriazole | 150 mmoles, 20.25 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | Z-Val-Tyr(But)-OMe | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C27H36N2O6
